Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain, shortness of breath, diaphoresis in setting of 
radiation treatment.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is an ___ man with a history of DM II, HTN, AS 
(valve area 1.1), medium-vessel vasculitis and seronegative 
arthritis (on prednisone and hydroxy-chloroquine), 
3-vessel-disease (LM 70%, Mid LAD 60%, Ramus mild disease, OM1 
100%, Distal RCA 100%.) awaiting CABG, and atypical 
fibroxanthoma of the nose requiring radiation who presents to ED 
with chest pain, shortness of breath, and vomiting during 
radiation treatment.  Mr. ___ was subsequently transferred 
to the MICU with low BP, melena, Hct drop, ST depressions in 
V3-V6, and elevated troponin.  In ED, CXR showed new mild 
pulmonary edema, moderate right pleural effusion, mild 
cardiomegaly, L>R bibasilar atelectasis.
.
Cardiology consult in the ICU concluded that elevated troponins 
were likely reflective of demand ischemia/NSTEMI rather than 
plaque rupture.  Cardiac symptoms occurred in setting of 
pulmonary edema and anemia, putting added strain on an already 
diseased heart.  Mr. ___ could not be started on a heparin 
drip due to nasal bleeding and melena.
.
Patient was transfused 3 units of blood in the ICU and responded 
appropriately (went from 23.9-->29).  It was thought that anemia 
was most likely the result of a slow nasal bleed rather than an 
acute GI bleed.  Although held initially in light of bleed and 
low BP, patient was eventually continued on ASA, statin, plavix, 
BB, and ___.
.
Upon transfer to the floor, patient was in good spirits.  His 
cardiac enzymes were trending down and EKG changes were 
resolving.  Vitals on transfer were: T: 98.7, HR: 64, BP: 
126/55, 94% on RA.
.
ROS:  Patient denied chest pain, shortness of breath, headache, 
nausea, vomiting, diarrhea, fevers, chills or any other 
concerning symptom.
 
Past Medical History:
# large atypical fibroxanthoma involving the nasal dorsum  
# 3VD awaiting CABG: He was scheduled to undergo cardiac surgery 
in the last week of ___. On ___, he 
developed profuse bleeding from the nasal mass,  
#NSTEMI ___  
#Moderate Aortic Stenosis,aortic valve area of 1.1cm2 in ___  
#hypertension  
#dyslipidemia  
#type 2 diabetes  
#vasculitis syndrome with requirement of amputation of toes 
#seronegative nonerosive inflammatory arthritis  
#anemia
# h/o gastric ulcer, history of gastritis, H. pylori positive, 
gastric  
polyps
# melanoma
 
Social History:
___
Family History:
Sister with MI in her ___ Father with MI at age ___.

 
Physical Exam:
PHYSICAL EXAM:
VS: T: 97.1, BP: 145/67, HR: 77, RR: 20, SP02: 95% RA
GENERAL:  Well appearing gentleman, NAD, lying in bed
HEENT: Nose covered in bandage
NECK: No LAD
CHEST:  Decreased lung sounds at both bases, R>L
CARDIAC:  RRR, ___ systolic ejection murmur
ABDOMEN: +BS, soft, non-tender, non-distended
EXTREMITIES: 1+ edema bilaterally
SKIN:  Warm, dry, areas of ulceration on lower shins and feet 
bilaterally
 
Pertinent Results:
LABS ON ADMISSION:

___ 03:50PM BLOOD WBC-16.5* RBC-2.85* Hgb-8.0* Hct-25.1* 
MCV-88 MCH-28.2 MCHC-32.0 RDW-16.8* Plt ___
___ 11:35AM BLOOD WBC-17.1* RBC-2.80* Hgb-7.7* Hct-23.9* 
MCV-85 MCH-27.4 MCHC-32.1 RDW-16.7* Plt ___
___ 11:35AM BLOOD Neuts-89.9* Lymphs-7.8* Monos-2.1 Eos-0.1 
Baso-0.1
___ 03:50PM BLOOD Plt ___
___ 11:35AM BLOOD Plt ___
___ 11:35AM BLOOD ___ PTT-24.9 ___
___ 11:35AM BLOOD Glucose-127* UreaN-40* Creat-1.5* Na-139 
K-5.5* Cl-105 HCO3-21* AnGap-19
___ 03:50PM BLOOD CK-MB-23* MB Indx-16.1* cTropnT-0.33*
___ 11:35AM BLOOD CK-MB-20* MB Indx-11.7*
___ 11:41AM BLOOD K-4.4

CARDIAC ENZYMES:
___ 11:35AM BLOOD CK-MB-20* MB Indx-11.7*
___ 11:35AM BLOOD cTropnT-0.33*
___ 03:50PM BLOOD CK-MB-23* MB Indx-16.1* cTropnT-0.33*

BLOOD COUNTS:
___ 11:35AM BLOOD WBC-17.1* RBC-2.80* Hgb-7.7* Hct-23.9* 
MCV-85 MCH-27.4 MCHC-32.1 RDW-16.7* Plt ___
___ 03:50PM BLOOD WBC-16.5* RBC-2.85* Hgb-8.0* Hct-25.1* 
MCV-88 MCH-28.2 MCHC-32.0 RDW-16.8* Plt ___

___:
Interstitial pulmonary edema and small bilateral pleural 
effusions.  The study and the report were reviewed by the staff 
radiologist. 

CTA:
1. Diffuse atherosclerotic calcification of the abdominal aorta, 
iliac 
vessels, and throughout both lower extremities, as outlined 
above.
2. No vascular wall thickening or perivascular edema to suggest 
vasculitis.  No central arterial thrombi.
3. Small bilateral pleural effusions.
4. Note is made of non-specific focal loss of the normal 
fasciculation of the left sciatic nerve in the distal thigh. 
Correlation with symptoms is 
suggested.
.
CAROTID ULTRASOUND ___:
Impression: Right ICA stenosis <40%.
Left ICA no stenosis.
.
ECHO ___:
The left and right atria are moderately dilated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size. 
There is mild regional left ventricular systolic dysfunction 
with hypokinesis of the basal half of the inferior and 
inferolateral walls. The remaining segments contract normally 
(LVEF = 45 %). Right ventricular chamber size and free wall 
motion are normal. The ascending aorta and aortic arch are 
mildly dilated. The aortic valve leaflets are moderately 
thickened. There is moderate aortic valve stenosis (valve area 
1.2cm2). Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild to moderate (___) 
mitral regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is an anterior space which most 
likely represents a fat pad.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
regional systolic dysfunction c/w CAD (PDA distribution). 
Moderate aortic valve stenosis. Moderate pulmonary artery 
systolic hypertension. Mild-moderate mitral regurgitation.

 
Brief Hospital Course:
This is an ___ gentleman with multiple medical problems 
including 3-vessel CAD awaiting CABG, bleeding nasal tumor, and 
DM II who was admitted to ___ for demand ischemia vs. NSTEMI 
in the setting of low hematocrit and hypotension.
.
#CAD:  Mr. ___ has severe 3-vessel disease and is awaiting 
CABG (and AVR) however, surgery has been delayed in light of 
bleeding nasal tumor.  Patient will need to be on high doses of 
heparin during bypass, thus it is imperative to wait until tumor 
has shrunk and is less likely to bleed.  Mr. ___ was 
admitted to the hospital after complaining of chest pain, SOB, 
and diaphoresis during a radiation treatment.  He was found to 
have ST depressions in V3-V6, elevated troponins, drop in hct, 
and low BP.  It was felt that this was demand ischemia in 
context of anemia (slowly bleeding nasal tumor).  He was 
admitted to the MICU and transfused 3 units of blood (hct bumped 
appropriately).  After transfer to the floor, Mr. ___ was 
continued on ASA 325mg, high dose statin, and valsartan.  His 
metoprolol was switched to carvedilol 25mg bid for better blood 
pressure control.  Plavix was stopped in light of bleeding and 
in preparation for CABG.  Patient remained chest pain free 
throughout duration of admission.  He will follow up with Dr. 
___ on ___ for CABG evaluation and will see Dr. ___ 
outpatient cardiology management.
.
NASAL CANCER:  Mr. ___ with atypical fibroxanthoma 
diagnosed in ___.  Currently being treated by 
radiation-oncology; treatment was extended through ___ as tumor 
was slow to regress.  ENT and wound care specialists directed 
bandage changes.  Patient with follow-up with ENT as an 
outpatient.
.
SERONEGATIVE ARTHRITIS:  Patient carries a diagnosis of 
seronegative arthritis, managed by outpatient rheumatologist and 
seen at ___ rheumatology in ___.  He remained on 
hydroxychloroquine throughout admission.
.
MEDIUM VESSEL VASCULITIS:  Patient with painful leg ulcers, 
diagnosed as medium vessel vasculitis.  Mr. ___ 
prednisone was ___ to 60mgQD (from 20mgQD) upon 
discharge.  Dermatology and rheumatology were both consulted and 
gave their recommendations.  Patient will follow-up with both of 
these specialties as anoutpatient.  Pain was controlled with 
tylenol and oxycodone.
.
ANEMIA:  Most likely from slow but consistent nasal bleeding.  
Mr. ___ did not have any acute drops in hct during 
admission.  His hct was maintained at ~28 and received a total 
of 5 units of PRBCs throughout hospital stay.
.
CHF:  Patient appeared slightly volume overloaded on admission, 
but after diuresis remained euvolemic.  Patient was continued on 
home lasix 40mg QD and received prn lasix with blood 
transfusions.  He was maintained on ___, BB, and statin.  ECHO 
showed EF of 45%.  I's and O's were carefully monitored.
.
DELIRIUM:  Patient had one episode of delirium during admission 
at which time he reported "being in a furniture store" and 
seeing "butterflies" in the halls.  Mr. ___ had been 
wearing thick sunglasses (because of radiation conjunctivitis) 
and after these were removed, he remained lucid.  Efforts were 
made to orient patient and unnecessary medications and lines 
were removed.  Geriatrics was consulted for further 
recommendations.
.
HYPERTENSION:  BP was not well controlled on admission but 
improved with substitution of carvedilol for metoprolol and 
administration ___ at night.  Patient may need uptitration of 
BP meds in context of increase in prednisone.
.
DMII:  Patient was maintained on insulin sliding scale and NPH 
15AM/5PM.  Outpatient doses may need to be adjusted in context 
of increased prednisone.
.
GERD:  Ranitidine was continued at 150mg BID.
.
CONJUNCTIVITIS:  Secondary to radiation.  Patient was maintained 
on erythromycin OPH.
 
Medications on Admission:
ATORVASTATIN [LIPITOR] - (Prescribed by Other Provider) - 40 mg  

Tablet - 1 Tablet(s) by mouth once a day  
CITALOPRAM - (Prescribed by Other Provider) - 10 mg Tablet - 1  
Tablet(s) by mouth once a day  
CLOPIDOGREL [PLAVIX] - (Prescribed by Other Provider) - 75 mg  
Tablet - 1 Tablet(s) by mouth once a day  
FUROSEMIDE - (Prescribed by Other Provider) - 40 mg Tablet - 1  
Tablet(s) by mouth once a day  
GLIPIZIDE - (Prescribed by Other Provider) - 5 mg Tablet - 1  
Tablet(s) by mouth once a day  
HYDROXYCHLOROQUINE - (Prescribed by Other Provider) - 200 mg  
Tablet - 1 Tablet(s) by mouth Twice daily  
INSULIN LISPRO [HUMALOG] - (Prescribed by Other Provider) - 100  

unit/mL Cartridge - Sliding Scale Pt was unsure regarding which  

medication was used for sliding scale  
METFORMIN - (Prescribed by Other Provider) - 500 mg Tablet - 1  
Tablet(s) by mouth once a day  
METOPROLOL TARTRATE - (Prescribed by Other Provider) - 25 mg  
Tablet - 1 Tablet(s) by mouth once a day  
NIFEDIPINE - (Prescribed by Other Provider) - 60 mg Tablet  
Sustained Release - 1.5 Tablet(s) by mouth once a day  
OMEPRAZOLE - (Prescribed by Other Provider) - 20 mg Capsule,  
Delayed Release(E.C.) - 1 Capsule(s) by mouth twice a day  
POTASSIUM CHLORIDE - (Prescribed by Other Provider) - 20 mEq Tab 
 
Sust.Rel. Particle/Crystal - 1 Tab(s) by mouth once a day  
PREDNISONE - 20mg daily (recently changed)
VALSARTAN [DIOVAN] - (Prescribed by Other Provider) - 160 mg  
Tablet - 1 Tablet(s) by mouth twice a day  
ACETAMINOPHEN [TYLENOL EXTRA STRENGTH] - (OTC) - 500 mg Tablet - 
 
___ Tablet(s) by mouth twice a day as needed for joint pain  
ASPIRIN - (Prescribed by Other Provider) - 81 mg Tablet, Delayed 
 
Release (E.C.) - 1 Tablet(s) by mouth once a day  
NPH INSULIN HUMAN RECOMB [HUMULIN N] - (Prescribed by Other  
Provider) - 100 unit/mL Suspension - 10 Units In morning and at  

bedtime
 
Discharge Medications:
1. Lipitor 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
2. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Hydroxychloroquine 200 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
5. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic BID (2 
times a day).
Disp:*1 1* Refills:*2*
6. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
7. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual ASDIR as needed for chest pain.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
8. Valsartan 160 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).
Disp:*30 Tablet(s)* Refills:*2*
9. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).
Disp:*60 Capsule(s)* Refills:*2*
10. Collagenase Clostridium hist. 250 unit/g Ointment Sig: One 
(1) Appl Topical DAILY (Daily).
Disp:*1 1* Refills:*2*
11. Carvedilol 12.5 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
12. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical 
DAILY (Daily) as needed for irritation.
Disp:*1 1* Refills:*0*
13. Oxycodone 15 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
14. NPH Insulin Human Recomb 100 unit/mL Suspension Sig: One (1) 
15 units in AM, 5 units in ___ Subcutaneous twice a day.
Disp:*1 1* Refills:*2*
15. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
16. Glipizide 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
17. Insulin Lispro 100 unit/mL Cartridge Sig: One (1)  
Subcutaneous four times a day: As per attached sliding scale.
Disp:*1 1* Refills:*2*
18. Potassium Chloride 20 mEq Packet Sig: One (1)  PO once a 
day.
Disp:*30 1* Refills:*2*
19. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours.
Disp:*120 Tablet(s)* Refills:*2*
20. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*2*
21. Caltrate 600+D Plus Minerals 600-400 mg-unit Tablet Sig: Two 
(2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1.  Demand ischemia and Non ST-segment Elevation Myocardial 
Infarction
2.  Atypical fibroxanthoma of nose
.
Secondary:
1.  Coronary artery disease
2.  Hypertension
3.  Hyperlipidemia
4.  DM II
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you on this admission.  You 
came to the hospital because you were having chest pain and 
shortness of breath during your radiation treatment.  You had 
some disruption of blood flow to your heart, most likely because 
you were anemic and your blood pressure was low.  We transfused 
blood and treated your pain.  You will eventually need to go for 
cardiac bypass surgery.
.
While you were here, we continued your radiation treatment for 
your nasal tumor.  Your last radiation treatment was on ___.  
You should continue to follow-up with the radiation oncologists.
.
We also had the vascular surgeons, rheumatologists, and 
dermatologist evaluate the ulcers on your legs.  We continued 
daily dressing changes; you should continue taking the 
prednisone at your current dose.
.
Please bring all records from your outside rheumatologist to 
your appointment with Dr. ___ on ___.
.
The following changes were made to your medication:
--INCREASE your Aspirin to 325mg once a day
--START taking Carvedilol 25mg twice a day
--START Oxycodone 15 mg every 6 hours as needed for pain
--START Miconazole Powder 2% applied daily to groin area
--START Collagenase Ointment daily to leg ulcers
--START Gabapentin 300mg every 12 hours (for pain)
--START Tylenol ___ every 6 hours
--START taking Ranitidine 150mg twice a day (for acid reflux)
--START taking NPH (insulin) 15 units in the morning and 5 units 
at night
--START taking calcium and vitamin D
--INCREASE your prednisone dose to 60mg every day for your 
vasculitis
--STOP taking Plavix
--STOP taking Citalopram
--STOP taking Metoprolol Tartrate 
--STOP taking Nifedipine
.
Please keep all of your follow-up appointments.  Take all of 
your medication as prescribed.
.
Call you doctor or return to the hospital if you develop chest 
pain, shortness of breath, severe headache, palpitations, 
nausea, vomiting, diarrhea, blood in your urine or stools, 
fevers, chills, sweats, or any other concerning signs or 
symptoms.
 
Followup Instructions:
___